US05716963
A solution of naphthoquinone (632 mg, 4 mmol) and 2-fluoro-2-propenal N,N-dimethylhydrazone was refluxed for 22 hours in dry chloroform (15 ml.) Another portion of naphthoquinone (0.41 g, 2.59 mmol) was added and the reflux continued for 3 more hours. After the solvent was evaporated at reduced pressure, silica gel column chromatography with elution with ethyl-ether-petroleum ether (1:1) yielded 187 mg (21%) of compound (I-1) and 42 mg (5%) of 3-fluoro-1,4-dihydro-1-azaanthracen-9,10-dione. m.p. 214° C. (MeOH).

reactant | naphthoquinone | 4 mmol, 632 mg | C=1C=CC2=C(C1)C(=O)C=CC2=O | C10H6O2
reactant | 2-fluoro-2-propenal N,N-dimethylhydrazone | CN(N=CC(=C)F)C | C5H9FN2
reactant | naphthoquinone | 2.59 mmol, 0.41 g | C=1C=CC2=C(C1)C(=O)C=CC2=O | C10H6O2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-1,4-dihydro-1-azaanthracen-9,10-dione | 42 mg, 5% | FC1=CNC=2C(C3=CC=CC=C3C(C2C1)=O)=O | C13H8FNO2
